US06323217B2
4-(Aminomethyl)-1-[2-(5fluorobenzofuran-3-yl)ethyl]-4-piperidinol
The product is obtained according to the process of Preparation 17, using ethyl N-{1-[2-(5-fluoro-benzofuran-3-yl)ethyl]-4-hydroxy-4-piperidylmethyl}carbamate as substrate, which is prepared as for the product of Step C of Preparation 16 starting from 2-(5-fluoro-benzofuran-3-yl)-1-bromoethane.

reactant | ethyl N-{1-[2-(5-fluoro-benzofuran-3-yl)ethyl]-4-hydroxy-4-piperidylmethyl}carbamate | FC=1C=CC2=C(C(=CO2)CCN2CCC(CC2)(O)CNC(OCC)=O)C1 | C19H25FN2O4
reactant | 2-(5-fluoro-benzofuran-3-yl)-1-bromoethane | FC=1C=CC2=C(C(=CO2)CCBr)C1 | C10H8BrFO
product | 4-(Aminomethyl)-1-[2-(5fluorobenzofuran-3-yl)ethyl]-4-piperidinol | NCC1(CCN(CC1)CCC1=COC2=C1C=C(C=C2)F)O | C16H21FN2O2
